US06716842B2
3-{2-Hydroxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic Acid Ethyl Ester
3-{2-Hydroxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-acrylic acid ethyl ester (4.0 g, 10.1 mmol) was hydrogenated over 10% palladium on carbon under an atmosphere of hydrogen. Filtration and evaporation provided the title compound in quantitative yield. MS m/z 396 (M+H)+.

reactant | 3-{2-Hydroxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-acrylic acid ethyl ester | 10.1 mmol, 4.0 g | C(C)OC(C=CC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)O)=O | C23H23NO5
catalyst | palladium on carbon | [Pd] | Pd
product | 3-{2-Hydroxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic Acid Ethyl Ester | quantitative yield | C(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)O)=O | C23H25NO5
